US05242489
An ink composition comprising 2.5 percent by weight of Tartrazine FD&C Yellow #5, a yellow dye obtained from Buffalo Color, West Patterson, N.Y., 15 percent by weight of cyclohexyl pyrrolidone (obtained from GAF Corporation, Wayne, N.J.), and 82.5 percent by weight of deionized water was prepared by mixing together the ingredients at room temperature, stirring to obtain a homogeneous solution, and filtering. An additional ink was also prepared, said ink being of the same composition as the first except that it contained 0.3 percent by weight of Carbowax M20. The Carbowax M20 was added to the ink at room temperature and the resulting mixture was stirred for about 5 minutes to obtain a homogeneous solution.

reactant | Tartrazine FD&C Yellow #5 | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | cyclohexyl pyrrolidone | C1(CCCCC1)N1C(CCC1)=O | C10H17NO
